US06352993B1
Step 3: 5,6-dimethyl-2-(4-methylthiazol-2-yl)amino-4-chloropyrimidine
The mixture solution of 5,6-dimethyl-2-(4-methylthiazol-2-yl)amino-4-hydroxypyrimidine (1.15 g, 4-78 mmol), phosphorus oxychioride(7 ml), and dimethylformamide(5 ml) was heated to 70° C. for 30 minutes, cooled to a room temperature and then poured into ice water. The aqueous layer was extracted with dichloromethane, washed with 1N sodium hydroxide solution, and then washed with water. The separated organic layer was concentrated and the residual oil was suspended in a mixture solution of ethyl ether and hexane. The resulting solid was filtered and dried to give 0.42 g of the titled compound. (Yield: 33.9%)

reactant | 5,6-dimethyl-2-(4-methylthiazol-2-yl)amino-4-hydroxypyrimidine | 4-78 mmol, 1.15 g | CC=1C(=NC(=NC1C)NC=1SC=C(N1)C)O | C10H12N4OS
reactant | phosphorus oxychioride | 7 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-(4-methylthiazol-2-yl)amino-4-chloropyrimidine | 0.42 g, Yield: 33.9% | CC=1C(=NC(=NC1C)NC=1SC=C(N1)C)Cl | C10H11ClN4S
